US07176310B1
7. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid pyridin-3-yl ester
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using 3-hydroxypyridine (12 mg, 0.13 mmol) as the source alcohol. Chromatography (5% methanol/dichloromethane) through SiO2 yielded 9 mg (14%) of the titled compound. ESI-MS m/z 391 (M+Na+), 367 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | 3-hydroxypyridine | 0.13 mmol, 12 mg | OC=1C=NC=CC1 | C5H5NO
solvent | methanol dichloromethane | CO.ClCCl
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid pyridin-3-yl ester | 9 mg, 14% | N1=CC(=CC=C1)OC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C18H13FN4O4
